US07208145B2
Formation of ethyl 2-benzyloxylactate
Trifluoromethanesulfonic acid (1.0 mL) was added gradually to a stirred mixture of ethyl lactate (8.90 g, 75 mmole), benzyl 2,2,2-trichloroacetimidate (22.7 g, 90 mmole), anhydrous cyclohexane (100 mL), and anhydrous dichloromethane (50 mL). The mixture was stirred overnight at room temperature under argon atmosphere. The mixture was filtered, and the filtrate was washed with saturated solution of sodium hydrogen carbonate (250 mL), and with distilled water (250 mL). Then, the solution was dried with anhydrous sodium sulfate and the solvents were distilled under reduced pressure using a rotary evaporator. The residue was subjected to fractional vacuum distillation giving 9.6 g of colorless product. NMR (CDCl3): 1.21 ppm (t, —CH2CH3, 3H), 1.32 ppm (d, —CH2—, 3H), 4.13 ppm (m, —CH— and —CH2CH3, 3H), 4.50 ppm (m, —CH2—, 2H), 7.32 ppm (m, 5H).

reactant | Trifluoromethanesulfonic acid | 1.0 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | ethyl lactate | 75 mmole, 8.90 g | C(C(O)C)(=O)OCC | C5H10O3
reactant | benzyl 2,2,2-trichloroacetimidate | 90 mmole, 22.7 g | ClC(C(OCC1=CC=CC=C1)=N)(Cl)Cl | C9H8Cl3NO
reactant | cyclohexane | 100 mL | C1CCCCC1 | C6H12
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl 2-benzyloxylactate | 9.6 g | C(C1=CC=CC=C1)OC(C(=O)OCC)(O)C | C12H16O4
